US07361663B2
B. 2,2-dimethyl-5-pyrrolidin-2-ylidene-[1,3]dioxane-4,6-dione
A solution of 5-Methoxy-3,4-dihydro-2H-pyrrole (5.35 g, 54.0 mmol), isopropylidene malonate (7.78 g, 54.0 mmol), triethylamine (1.35 mL, 9.7 mmol) and benzene (55 mL) is refluxed under nitrogen overnight. The reaction is cooled to RT and concentrated and the crude product is recrystalized from EtOH (95 mL) to give the title compound as a white solid (8.13 g, 38.5 mmol). 1H NMR (CDCl3, 300 MHz) 3.73(t, 2H), 3.35(t, 2H), 2.20-2.08(m, 2H), 1.66(s, 6H).

reactant | 5-Methoxy-3,4-dihydro-2H-pyrrole | 54.0 mmol, 5.35 g | COC=1CCCN1 | C5H9NO
reactant | isopropylidene malonate | 54.0 mmol, 7.78 g | C1(CC(=O)OC(C)(C)O1)=O | C6H8O4
reactant | triethylamine | 9.7 mmol, 1.35 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 55 mL | C1=CC=CC=C1 | C6H6
product | 2,2-dimethyl-5-pyrrolidin-2-ylidene-[1,3]dioxane-4,6-dione | 38.5 mmol, 8.13 g | CC1(OC(C(C(O1)=O)=C1NCCC1)=O)C | C10H13NO4
